US07576091B2
(6-Methoxy-pyridin-3-yl)-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-amine
A mixture of 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one (200 mg, 0.76 mmol), N-(6-methoxy-pyridin-3-yl)-guanidine nitrate (192 mg, 0.84 mmol), NaOH (34 mg, 0.84 mmol) and 2-methoxyethanol (2 mL) was heated at 100° C. for 24 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (20% EtOAc:hexane) gave the title product as a white solid (20 mg, 8%): mp 210-211° C. Anal. RP-HPLC: tR 11.6 min (10-70% MeCN, purity 93%). 1H-NMR (CDCl3): δ 8.42 (d, 1H, J 2.4, Ph-H), 8.26 (s, 1H, Py-H), 8.08 (dd, 1H, J 9.1, 2.9, Ph-H), 7.19 (brs, 1H, NH), 6.86 (d, 1H, J 9.1, Ph-H), 4.04 (s, 3H, OMe), 3.13 (m, 4H, CH2—CH2), 2.87 (s, 3H, CH3). 13C-NMR (CDCl3): δ 169.47, 159.97, 159.38, 159.12, 157.10, 155.16, 137.95, 131.90, 130.45, 128.62, 116.48, 110.33, 53.49, 25.29, 23.92, 19.84. MS (ESI+): m/z 326.08 (M+H)+.

reactant | 2-methyl-6-morpholin-4-ylmethylene-5,6-dihydro-4H-benzothiazol-7-one | 0.76 mmol, 200 mg | CC=1SC2=C(N1)CCC(C2=O)=CN2CCOCC2 | C13H16N2O2S
reactant | N-(6-methoxy-pyridin-3-yl)-guanidine nitrate | 0.84 mmol, 192 mg | [N+](=O)(O)[O-].COC1=CC=C(C=N1)NC(=N)N
reactant | NaOH | 0.84 mmol, 34 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | (6-Methoxy-pyridin-3-yl)-(2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-amine | 20 mg, 8% | COC1=CC=C(C=N1)NC1=NC=2C3=C(CCC2C=N1)N=C(S3)C | C16H15N5OS
